US04927958
A solution of 20 g (0.36 mol) of 2-propyn-1-ol in 637 ml (6.66 mol) of ethyl vinyl ether was treated at 0° under argon with 1.27 ml (16.7 mmol) of trifluoroacetic acid and the mixture was subsequently stirred at room temperature for 65 hours. 1.3 g of sodium carbonate were added, the reaction mixture was stirred at room temperature for a further 30 minutes and concentrated on a rotary evaporator. Distillation of the residue under reduced pressure yielded 1-(1-ethoxyethoxy)-2-propyne of boiling point 55°/30 mmHg.

reactant | 2-propyn-1-ol | 0.36 mol, 20 g | C(C#C)O | C3H4O
reactant | ethyl vinyl ether | 6.66 mol, 637 ml | C(=C)OCC | C4H8O
reactant | trifluoroacetic acid | 16.7 mmol, 1.27 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(1-ethoxyethoxy)-2-propyne | C(C)OC(C)OCC#C | C7H12O2
